US09376424B2
Methyl 2-(4(S)-phenyloxazolidin-2-on-3-yl)propanoate.
A solution of methyl (4(S)-phenyloxazolidin-2-on-3-yl)acetate (1 g, 4.25 mmol) in 10 mL of anhydrous THF at −78° C. was treated with 4.68 mL (4.68 mmol) of a 1 M solution of lithium bis(trimethylsilyl)amide in THF. The reaction mixture was stirred for 1 h. at about −70° C. before adding MeI (1.59 mL, 25.51 mmol). Upon complete conversion of the azetidinone, the reaction was quenched with saturated aqueous NH4Cl and partitioned between EtOAc and water. The organic layer was washed sequentially with saturated aqueous sodium bisulfite, and saturated aqueous NaCl. The resulting organic layer was dried (MgSO4) and evaporated to afford the title compound (a mixture of diasteromers) as a white solid (1.06 g, 93%); 1H NMR (CDCl3) δ 1.07/1.53 (d/d, J=7.5 Hz, 3H), 3.59/3.74 (s/s, 3H), 3.85/4.48 (q/q, J=7.5 Hz, 1H), 4.10-4.14 (m, 1H), 4.60-4.64/4.65-4.69 (m/m, 1H), 4.88-4.92/4.98-5.02 (m/m, 1H), 7.24-7.40 (m, 5H).

reactant | methyl (4(S)-phenyloxazolidin-2-on-3-yl)acetate | 4.25 mmol, 1 g | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC(=O)OC | C12H13NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | MeI | 25.51 mmol, 1.59 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 2-(4(S)-phenyloxazolidin-2-on-3-yl)propanoate | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C(=O)OC)C | C13H15NO4
